US04873237
2,3-Dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole
4-Methyl-2-mercaptobenzimidazole (13.32 g) was suspended in 2-methylpropan-2-ol (150 ml) and potassium tertbutoxide (9.04 g) added. The mixture was stirred for 2 hours and 2-(1,2-dibromoethyl)pyridine hydrobromide (27.68 g) added. The mixture was stirred at ambient temperature for 1 hour and then at reflux for 2 hours. The reaction mixture was filtered and the solid washed with ether. The filtrate was evaporated to dryness under reduced pressure and the residue combined with the first solid obtained. The combined material was dissolved in 2N HCl (100 ml). The aqueous solution was extracted with ethyl acetate, basified (Na2CO3) and extracted with dichloromethane. The organic layer was dried (MgSO4) and the solvent removed under reduced pressure. The residue was purified on Florisil using chloroform as eluent and on silica using ethyl acetate as eluent to give the title compound (1.55 g) mp 128°-130° C.

reactant | 4-Methyl-2-mercaptobenzimidazole | 13.32 g | CC1=CC=CC=2N=C(NC21)S | C8H8N2S
reactant | potassium tertbutoxide | 9.04 g | CC(C)([O-])C.[K+]
reactant | 2-(1,2-dibromoethyl)pyridine hydrobromide | 27.68 g | Br.BrC(CBr)C1=NC=CC=C1
solvent | 2-methylpropan-2-ol | 150 ml | CC(C)(C)O | C4H10O
solvent | HCl | 2N, 100 ml | Cl | ClH
product | 2,3-Dihydro-5-methyl-2-(2-pyridyl)thiazolo[3,2-a]benzimidazole | 1.55 g | CC1=CC=CC2=C1N1C(=N2)SC(C1)C1=NC=CC=C1 | C15H13N3S
